US07994209B2
(S)-3-[(S)-1-(3-Chloro-2-methylphenoxy)but-3-enyl]-pyrrolidine
(S)-3-((S)-1-Hydroxy-but-3-enyl)pyrrolidine-1-carboxylic acid t-butyl ester (31 mg, 130 μmmol) was dissolved in DMF (470 μL, 6.1 mmol). 60% Sodium hydride in oil (0.4:0.6, sodium hydride:mineral oil, 10.1 mg, 169 μmmol) was carefully added, and the mixture allowed to stand for 15 minutes. 2-Chloro-6-fluorotoluene (47.0 μL, 390 μmmol) was added. The mixture was stirred at 70° C. for 3 hours. The reaction was quenched with MeOH, and the solvent was removed. 1.2M HCl in EtOH (630 μL, 760 μmmol) was added, and the mixture was stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (1 mg, 100% purity). MS m/z: [M+H]+ calcd for C15H20ClNO, 266.12; found 266.0.

reactant | (S)-3-((S)-1-Hydroxy-but-3-enyl)pyrrolidine-1-carboxylic acid t-butyl ester | 31 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CC=C)O | C13H23NO3
reactant | DMF | 6.1 mmol, 470 μL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | [H-].[Na+]
reactant | 2-Chloro-6-fluorotoluene | 47.0 μL | ClC1=C(C(=CC=C1)F)C | C7H6ClF
product | (S)-3-[(S)-1-(3-Chloro-2-methylphenoxy)but-3-enyl]-pyrrolidine | ClC=1C(=C(O[C@@H](CC=C)[C@@H]2CNCC2)C=CC1)C | C15H20ClNO
